US05767131
Acetoacetic acid 3-(N, N-dimethyl)aminopropyl ester.
Diketene (2.54 mL, 33.0 mmol, 1.30 equiv) was added to a solution of 3-(N,N-dimethyl)aminopropan-1-ol (3.00 mL, 25.4 mmol, 1.00 equiv, Aldrich) in toluene (30 mL) and the mixture was stirred at room temperature for 70 hours. The solvent was removed to afford 4.76 g of brown oil, which was characterized spectroscopically and used for the next reaction without purification.

reactant | Diketene | 33.0 mmol, 2.54 mL, 1.30 equiv | C=C1CC(=O)O1 | C4H4O2
reactant | 3-(N,N-dimethyl)aminopropan-1-ol | 25.4 mmol, 3.00 mL, 1.00 equiv | CN(C)CCCO | C5H13NO
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | Acetoacetic acid 3-(N, N-dimethyl)aminopropyl ester | 4.76 g | CN(C)CCCOC(CC(=O)C)=O | C9H17NO3
